### PR TITLE
Add extensionality for finite-measure distributions

### PR DESCRIPTION
**Pull request by Lemmy00**
This follows #1333 and #1347. Those PRs added finite measures as Physlib distributions and compatibility with Mathlib tempered distributions; this PR adds the extensionality direction needed for the finite-measure/tempered-distribution bridge: the associated complex scalar distribution determines the finite measure.

## Changes

- Add the public lemma `Distribution.ofFiniteMeasure_eq_iff`, showing `ofFiniteMeasure ℂ μ = ofFiniteMeasure ℂ ν ↔ μ = ν` for finite Borel measures on finite-dimensional real normed spaces.
- Add private support lemmas which keep the public API small:
  - `lipschitzWith_integral_of_le`: integration against a smaller measure is Lipschitz on `L¹` for a dominating measure.
  - `integral_boundedContinuous_eq_of_forall_schwartz_integral_eq`: equality on Schwartz tests extends to bounded continuous tests by density in `L¹(μ + ν)`.
  - `measure_eq_of_forall_schwartz_integral_eq`: characteristic-function extensionality via `Measure.ext_of_charFunDual` recovers measure equality.

## Review map

The intended entry point is `Distribution.ofFiniteMeasure_eq_iff`. The private proof path is: equality of distributions gives equality of integrals on Schwartz maps; Schwartz density in `L¹(μ + ν)` extends this to bounded continuous functions; applying this to `BoundedContinuousFunction.probCharDual` identifies characteristic functions on the strong dual, and Mathlib's `Measure.ext_of_charFunDual` finishes.

## Checks

- `lake env lean Physlib/Mathematics/Distribution/Basic.lean`
- `git diff --check`
- `./scripts/lint-style.py Physlib/Mathematics/Distribution/Basic.lean`
- `lake build`
- `./scripts/lint-style.sh`
- `lake exe lint_all` (exits 0; it still prints existing repo-wide style/transitive-import messages in unrelated files, and does not list this touched file)

### CODE REVIEW

File: Physlib/Mathematics/Distribution/Basic.lean [hunk 1]
```diff
@@ -453,8 +456,119 @@ lemma toTemperedDistribution_ofFiniteMeasure (μ : Measure E) [IsFiniteMeasure 
...
+    _ = ∫ x, f x ∂ν := integral_congr_ae hfν
+
 end finiteMeasure
 
+section finiteMeasureExt
+
+open MeasureTheory
+
+private lemma measure_eq_of_forall_schwartz_integral_eq
+    {E : Type} [NormedAddCommGroup E] [InnerProductSpace ℝ E] [MeasurableSpace E]
```
Comment (nateabr) [inline Physlib/Mathematics/Distribution/Basic.lean]: Do we need [InnerProductSpace ℝ E] here?

File: Physlib/Mathematics/Distribution/Basic.lean [hunk 2]
```diff
@@ -453,8 +456,119 @@ lemma toTemperedDistribution_ofFiniteMeasure (μ : Measure E) [IsFiniteMeasure 
...
+    [BorelSpace E] [SecondCountableTopology E] [FiniteDimensional ℝ E]
+    {μ ν : Measure E} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+    (h : ∀ η : 𝓢(E, ℂ), ∫ x, η x ∂μ = ∫ x, η x ∂ν) :
+    μ = ν := by
+  apply Measure.ext_of_charFun
+  ext t
+  rw [charFun_eq_integral_innerProbChar, charFun_eq_integral_innerProbChar]
+  exact integral_boundedContinuous_eq_of_forall_schwartz_integral_eq h
+    (BoundedContinuousFunction.innerProbChar t)
```
Comment (nateabr) [inline Physlib/Mathematics/Distribution/Basic.lean]: From my understanding, using Measure.ext_of_charFun introduces an artificial restriction to inner product spaces, whereas ofFiniteMeasure itself only requires a normed space. 

Maybe if we try switching to Measure.ext_of_charFunDual and BoundedContinuousFunction.probCharDual we could state this under the weaker NormedSpace ℝ assumption?

File: Physlib/Mathematics/Distribution/Basic.lean [hunk 3]
```diff
@@ -453,8 +456,119 @@ lemma toTemperedDistribution_ofFiniteMeasure (μ : Measure E) [IsFiniteMeasure 
...
+
+/-- The complex scalar distribution associated to a finite measure determines the measure. -/
+lemma ofFiniteMeasure_eq_iff
+    {E : Type} [NormedAddCommGroup E] [InnerProductSpace ℝ E] [MeasurableSpace E]
```
Comment (nateabr) [inline Physlib/Mathematics/Distribution/Basic.lean]: Same issue as the earlier comment, if the helper lemma above can be refactored, the InnerProductSpace ℝ  assumption can be dropped.

File: Physlib/Mathematics/Distribution/Basic.lean [hunk 4]
```diff
@@ -453,8 +456,119 @@ lemma toTemperedDistribution_ofFiniteMeasure (μ : Measure E) [IsFiniteMeasure 
...
+private lemma integral_boundedContinuous_eq_of_forall_schwartz_integral_eq
+    [FiniteDimensional ℝ E] {μ ν : Measure E} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+    (h : ∀ η : 𝓢(E, ℂ), ∫ x, η x ∂μ = ∫ x, η x ∂ν)
+    (f : BoundedContinuousFunction E ℂ) :
+    ∫ x, f x ∂μ = ∫ x, f x ∂ν := by
+  let ρ : Measure E := μ + ν
+  let L : 𝓢(E, ℂ) →L[ℝ] Lp ℂ 1 ρ :=
+    @SchwartzMap.toLpCLM ℝ E ℂ _ _ _ _ _ _ _ _ _ _ (1 : ℝ≥0∞) _ ρ _
+  let toL1 : BoundedContinuousFunction E ℂ →L[ℝ] Lp ℂ 1 ρ :=
+    @BoundedContinuousFunction.toLp E ℂ _ (1 : ℝ≥0∞) ρ _ _ _ _ _ ℝ _ _ _ _
```
Comment (nateabr) [inline Physlib/Mathematics/Distribution/Basic.lean]: I think if we register IsFiniteMeasure ρ and ρ.HasTemperateGrowth as local instances using `haveI` first, Lean should be able to resolve these automatically and make the proof have a cleaner structure. However, this is purely a cosmetic change for ease of readability.

**Review by nateabr — COMMENTED** [review]
Hi, overall everything looks great. 

I just had a few comments but please do not treat any of them as authoritative. Hope they help  :)

**Comment by nateabr** [comment]
awaiting-author

**Comment by Lemmy00** [comment]
Thanks for the suggestions. I pushed an update addressing these.

The statement now uses `Measure.ext_of_charFunDual` with `BoundedContinuousFunction.probCharDual`, so the artificial `[InnerProductSpace ℝ E]` assumption is removed, and the public lemma only assumes `[NormedSpace ℝ E]`.

I also added local `haveI` instances for `ρ := μ + ν`, which makes the `toLp` maps elaborate without the long explicit `@...` terms.

Checks:
- `lake env lean Physlib/Mathematics/Distribution/Basic.lean`
- `lake build`
- `./scripts/lint-style.sh`
- `lake exe lint_all`

**Comment by nateabr** [comment]
amazing, everything else look good to me!

**Comment by nateabr** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
